US04885393
Preparation of sec.-butyl-di-n-octyl phosphine
75 g (0.8 mol) sec.-butyl phosphine, 900 ml (5.2 mol) octene-1 and 1.8 g (11 millimol) ABIN were placed in a 2-liter flask with stirrer, reflux condenser and dropping funnel, and heated to 80° C. Next, a solution of 6.2 g ABIN in 400 ml octene was added dropwise within 3 hours. The temperature was maintained at 80°-85° C. over a period of 8 hours, and the reaction product was ultimately distilled under reduced pressure. Low boiling matter was removed and 190 g of a liquid colorless product was obtained.

reactant | sec.-butyl phosphine | 0.8 mol, 75 g | C(C)(CC)P | C4H11P
reactant | octene | 400 ml | C=CCCCCCC | C8H16
reactant | octene-1 | 5.2 mol, 900 ml | CCCCCCC=C | C8H16
product | sec.-butyl-di-n-octyl phosphine | 190 g | C(C)(CC)P(CCCCCCCC)CCCCCCCC | C20H43P
